US07067517B2
Methyl-phenyl-carbamic acid 4-cyclohexylcarbamoyl-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and cyclohexylamine. The crude product was used without further purification (79%, off-white crystals). HPLC-MS: m/z=353.2 (M+1); Rt: 3.98 min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | Methyl-phenyl-carbamic acid 4-cyclohexylcarbamoyl-phenyl ester | C1(CCCCC1)NC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C21H24N2O3
